US04469698
(4) 1-butyl-5-acetylamino-6-aminouracil
59.4 g (0.3 mole) of 1-butyl-5,6-diaminouracil are refluxed for 2 hours with stirring in 240 ml of acetic acid in a reactor equipped with a condenser. The acetic acid is evaporated and the residue is taken up in a little ethanol which is then evaporated. This operation is repeated until a semi-crystalline residue is obtained. The semi-crystalline residue thus obtained is then triturated until solidification is complete. The solid is filtered and washed with ether, giving 72 g of fine, faintly yellow crystals.

reactant | 1-butyl-5,6-diaminouracil | 0.3 mole, 59.4 g | C(CCC)N1C(=O)NC(=O)C(=C1N)N | C8H14N4O2
reactant | acetic acid | 240 ml | C(C)(=O)O | C2H4O2
product | 1-butyl-5-acetylamino-6-aminouracil | C(CCC)N1C(=O)NC(=O)C(=C1N)NC(C)=O | C10H16N4O3
